US07667041B2
Synthesis of (E)-6-(3-fluorobenzylamino)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]hexanoic acid ethyl ester
To a methylene chloride (6 mL) solution of (E)-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)-6-oxohexanoic acid ethyl ester (231 mg), 3-fluorobenzylamine (88.7 μL), acetic acid (0.5 mL) and sodium triacetoxy borohydride (165 mg) were added one by one. After agitating the reaction solution at room temperature overnight, a saturated sodium bicarbonate water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (Carrier: Chromatorex NH, elution solvent; heptane-ethyl acetate=1:1→ethyl acetate→ethyl acetate:ethanol=10:1), and 173 mg of the title compound was obtained. The physical properties of the compound are as follows.

reactant | (E)-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)-6-oxohexanoic acid ethyl ester | 231 mg | C(C)OC(/C(/CCCC=O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C20H24N2O4
reactant | 3-fluorobenzylamine | 88.7 μL | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | sodium triacetoxy borohydride | 165 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | (E)-6-(3-fluorobenzylamino)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]hexanoic acid ethyl ester | 173 mg | C(C)OC(/C(/CCCCNCC1=CC(=CC=C1)F)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C27H32FN3O3
